US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide (40 mg, 0.10 mmol), para-toluenesulfonic acid (24 mg, 0.13 mmol) and MeOH (53 μL, 1.3 mmol) were dissolved in toluene (2.0 mL) and irradiated in the microwave at 140° C. for 10 minutes. Volatiles were removed in vacuo and crude product was purified by reverse phase HPLC to afford 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-(methoxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide (9.6 mg, 23%). ESI-MS m/z calc. 415.5, found 416.5 (M+1)+; retention time 3.68 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | 0.10 mmol, 40 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CO | C25H23NO4
reactant | para-toluenesulfonic acid | 0.13 mmol, 24 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | MeOH | 1.3 mmol, 53 μL | CO | CH4O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(4′-(methoxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | 9.6 mg, 23% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)COC | C26H25NO4
